US07807709B2
(3R*,4R*)-3-{[Cyclopropyl-(pyrrolidine-1-carbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Triethylamine (99 μL, 0.714 mmol) followed by 1-pyrrolidinecarbonyl chloride is added to a solution of ((3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (254 mg, 0.476 mmol) in CH2Cl2 (20 mL). The resulting solution is stirred at RT for 2 h and at 60° C. for another 24 h. Evaporation of the solvent affords the crude product which is purified by preparative HPLC (Waters C18 ODB, eluent: H2O/CH3CN 20 to 100%) to give the title compound. MS (LC-MS): 631.1 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 6.31 min.

reactant | Triethylamine | 0.714 mmol, 99 μL | C(C)N(CC)CC | C6H15N
reactant | 1-pyrrolidinecarbonyl chloride | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.476 mmol, 254 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3R*,4R*)-3-{[Cyclopropyl-(pyrrolidine-1-carbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)N1CCCC1)C1CC1 | C34H54N4O7
